US04728653
Preparation of 8-methyl-6-(5-iodo-2,4-dimethylimidazol-1-yl)-2-(1H)-quinolone, 0.5H2O
Iodine monochloride (0.406 g) was added at room temperature to a stirred solution of 8-methyl-6-(2,4-dimethylimidazol-1-yl)-2-(1H)-quinolone (0.506 g) and sodium acetate (0.328 g) in acetic acid (10 cm3). After 16 hours, volatile material was removed in vacuo and the residue partitioned between aqueous 2M sodium carbonate solution (50 cm3) and dichloromethane (50 cm3). The aqueous phase was further extracted with dichloromethane (2×50 cm3) and the combined and dried (MgSO4) organic extracts were filtered and evaporated in vacuo. The residue was chromatographed on silica (Merck "MK 60.9385" [Trade Mark]) eluting with ethyl acetate. Combination and evaporation of the appropriate fractions afforded a solid which was recrystallised from ethyl acetatemethanol to give the title compound, m.p. 242°-245° (0.38 g).

reactant | Iodine monochloride | 0.406 g | ICl | ClI
reactant | 8-methyl-6-(2,4-dimethylimidazol-1-yl)-2-(1H)-quinolone | 0.506 g | CC=1C=C(C=C2C=CC(NC12)=O)N1C(=NC(=C1)C)C | C15H15N3O
reactant | sodium acetate | 0.328 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 10 cm3 | C(C)(=O)O | C2H4O2
product | 8-methyl-6-(5-iodo-2,4-dimethylimidazol-1-yl)-2-(1H)-quinolone | CC=1C=C(C=C2C=CC(NC12)=O)N1C(=NC(=C1I)C)C | C15H14IN3O
